US07977481B2
5-{2-[3-(1-Hydroxy-ethyl)-phenylamino]-pyrimidin-4-yl}-thiophene-2-carboxylic acid methoxy-methyl-amide (30 mg, 78 μmol) was dissolved in 5 mL of dry THF and cooled to −78° C. Methylmagnesium bromide (3M in ether, 130 μl, 390 μmol) was added dropwise. The mixture was slowly warmed to room temperature and stirred until all the starting material was consumed (LCMS). The reaction mixture was quenched by addition of a saturated ammonium chloride solution and passed through a Varian Chem Elut cartridge. The crude product was concentrated and purified via flash chromatography (hexanes/ethyl acetate+10% methanol gradient) and preparative HPLC (water/acetonitrile gradient) to give 6.6 mg of 1-(5-{2-[3-(1-Hydroxy-ethyl)-phenylamino]-pyrimidin-4-yl}-thiophen-2-yl)-ethanone as a yellow solid (0.19 μmol, 25%). 1H NMR (500 MHz, DMSO-d6) δ 9.71 (s, 1H), 8.56 (d, J=5 Hz, 1H), 8.07 (d, J=4 Hz, 1H), 7.99 (d, J=4 Hz, 1H), 7.83 (s, 1H), 7.61 (m, 1H), 7.43 (d, J=5 Hz, 1H), 7.25 (t, J=8 Hz, 1H), 6.98 (d, J=8 Hz, 1H), 5.13 (bs, 1H), 4.71 (q, J=6.5 Hz, 1H), 2.57 (s, 3H), 1.36 (d, J=6.5 Hz, 3H). MS: m/z 340 (M+H+).

reactant | 5-{2-[3-(1-Hydroxy-ethyl)-phenylamino]-pyrimidin-4-yl}-thiophene-2-carboxylic acid methoxy-methyl-amide | 78 μmol, 30 mg | CON(C(=O)C=1SC(=CC1)C1=NC(=NC=C1)NC1=CC(=CC=C1)C(C)O)C | C19H20N4O3S
reactant | Methylmagnesium bromide | 390 μmol, 3M, 130 μl | C[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(5-{2-[3-(1-Hydroxy-ethyl)-phenylamino]-pyrimidin-4-yl}-thiophen-2-yl)-ethanone | 0.19 μmol, 6.6 mg, 25% | OC(C)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=C(S1)C(C)=O | C18H17N3O2S
